US03958006
Preparation of 4-Methylsulfinyl-5,6,7,8-tetrahydro-1-naphthyl N-methylcarbamate
This compound was prepared in 90% yield by allowing a solution of 4-methylmercapto-5,6,7,8-tetrahydro-1-naphthyl N-methylcarbamate in ethyl acetate to slowly react at 35°-40° with one equivalent of peracetic acid in ethyl acetate. An ice bath was required to maintain the reaction temperature in the proper range. At the conclusion of the reaction, the solution was diluted with heptane and the resulting precipitate collected by filtration and washed thoroughly with heptane. After drying, the product melted at 135°-138°.

reactant | 4-methylmercapto-5,6,7,8-tetrahydro-1-naphthyl N-methylcarbamate | CNC(OC1=CC=C(C=2CCCCC12)SC)=O | C13H17NO2S
reactant | peracetic acid | one equivalent | C(C)(=O)OO | C2H4O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | 4-Methylsulfinyl-5,6,7,8-tetrahydro-1-naphthyl N-methylcarbamate | 90% yield | CNC(OC1=CC=C(C=2CCCCC12)S(=O)C)=O | C13H17NO3S
